US04864047
Preparation of Triphenoxy-tris(aminophenoxy)cyclotriphosphazene
The procedure of Example 6 was used, with a sample of trichloro-tris(aminophenoxy)cyclotriphosphazene, prepared as in Example 4, as the starting phosphazene reagent. The reagent amounts were: hexachlorocyclotriphosphazene, 0.05 mole; phenol, 0.21 mole; sodium hydride, 0.22 mole. The product was isolated as an amber oil, which contained traces of THF.

reactant | trichloro-tris(aminophenoxy)cyclotriphosphazene | ClP1(=NP(=NP(=N1)(OC1=C(C=CC=C1)N)Cl)(OC1=C(C=CC=C1)N)Cl)OC1=C(C=CC=C1)N | C18H18Cl3N6O3P3
reactant | hexachlorocyclotriphosphazene | ClP1(=NP(=NP(=N1)(Cl)Cl)(Cl)Cl)Cl | Cl6N3P3
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | [H-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | Triphenoxy-tris(aminophenoxy)cyclotriphosphazene | O(C1=CC=CC=C1)P1(=NP(=NP(=N1)(OC1=C(C=CC=C1)N)OC1=CC=CC=C1)(OC1=C(C=CC=C1)N)OC1=CC=CC=C1)OC1=C(C=CC=C1)N | C36H33N6O6P3
